US04931457
3-(1-Naphthyloxy)-4-pyridinamine
A suspension of 3-(1-naphthyloxy)-4-nitropyridine-N-oxide (7.5 g) in 250 ml ethanol containing 0.5 g PtO2 was hydrogenated at 50 psi for five hours and filtered through Celite. The filtrate was concentrated to 6 g oil. This oil was purified by HPLC (silica, 50% ethyl acetate in dichloromethane) to give 4 g oil. Final purification was achieved by converting the oil to the hydrochloride salt in methanol/ether and immediately thereafter reconverting the salt to the free base with sodium carbonate to afford 3.5 g solid product. This solid was recrystallized from diethyl ether to give a solid, 2.3 g, m.p. 107°-109°.

reactant | 3-(1-naphthyloxy)-4-nitropyridine-N-oxide | 7.5 g | C1(=CC=CC2=CC=CC=C12)OC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C15H10N2O4
solvent | ethanol | 250 ml, 0.5 g | C(C)O | C2H6O
product | 3-(1-Naphthyloxy)-4-pyridinamine | 4 g | C1(=CC=CC2=CC=CC=C12)OC=1C=NC=CC1N | C15H12N2O
